US05294734
36 g (0.19 mol) of 4-ethoxycarbonylmethoxybutyric acid are charged to 180 ml of toluene and 0.1 ml of dimethyl formamide is added. Then 24.4 ml (0.28 mol) of oxalyl chloride are added dropwise over 30 minutes. When the addition is complete, the reaction mixture is heated to 50° C., stirred for 1 hour and concentrated by evaporation. Distillation of the residue gives 4-ethoxycarbonylmethoxybutyric acid chloride as a clear colourless liquid of b.p. 87°-89° C./2.10-2 torr.

reactant | 4-ethoxycarbonylmethoxybutyric acid | 0.19 mol, 36 g | C(C)OC(=O)COCCCC(=O)O | C8H14O5
reactant | toluene | 180 ml | C1(=CC=CC=C1)C | C7H8
reactant | oxalyl chloride | 0.28 mol, 24.4 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dimethyl formamide | 0.1 ml | CN(C=O)C | C3H7NO
product | 4-ethoxycarbonylmethoxybutyric acid chloride | C(C)OC(=O)COCCCC(=O)Cl | C8H13ClO4
